US04467125
2-Nitro-3-Methyl Benzotrifluoride
6 gms of 90% nitric acid is cooled to -5° C. and 2 gms of 3-methyl benzotrifluoride was added dropwise with stirring. The two phase system was allowed to warm to 10° C. during addition. After stirring 2 hours, the reaction mixture was poured onto ice, extracted with methylene chloride and washed with dilute aqueous sodium bicarbonate. After vacuum removal of solvent on a rotary evaporator, near quantitative oil was obtained which had isomer distribution:

reactant | nitric acid | 6 gms | [N+](=O)(O)[O-] | HNO3
reactant | 3-methyl benzotrifluoride | 2 gms | CC=1C=C(C=CC1)C(F)(F)F | C8H7F3
product | 2-Nitro-3-Methyl Benzotrifluoride | [N+](=O)([O-])C1=C(C=CC=C1C)C(F)(F)F | C8H6F3NO2
